US08084469B2
Methyl 5-(4-ethylphenyl)pyridine-3-carboxylate
According to General Method 1A, 32 g (148 mmol) of methyl 5-bromonicotinate and 27 g (178 mmol, 1.2 eq.) of 4-ethylphenylboronic acid were reacted. Yield: 24 g (64% of theory)

reactant | methyl 5-bromonicotinate | 148 mmol, 32 g | BrC=1C=NC=C(C(=O)OC)C1 | C7H6BrNO2
reactant | 4-ethylphenylboronic acid | 178 mmol, 27 g, 1.2 eq. | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
product | Methyl 5-(4-ethylphenyl)pyridine-3-carboxylate | C(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C(=O)OC | C15H15NO2
